US08242104B2
A solution of N′-(8-bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonyl)-N′-isopropyl-hydrazinecarboxylic acid tert-butyl ester (2.71 g, 5.83 mmol) in methanol (52 mL) was treated with 4N HCl in dioxane (5.83 mL, 23.3 mmol). The reaction mixture was stirred at 50° C. overnight before the reaction was concentrated in vacuo and the resultant residue triturated with diethyl ether to give 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid N-isopropyl-hydrazide dihydrochloride as a pale yellow foam (2.69 g, quantitative yield). LCMS RT=4.17 min, [M+H]+=365/367

reactant | N′-(8-bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonyl)-N′-isopropyl-hydrazinecarboxylic acid tert-butyl ester | 5.83 mmol, 2.71 g | C(C)(C)(C)OC(=O)NN(C(C)C)C(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br | C20H25BrN4O4
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 23.3 mmol, 5.83 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 52 mL | CO | CH4O
product | 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid N-isopropyl-hydrazide dihydrochloride | 2.69 g, quantitative yield | Cl.Cl.C(C)(C)N(N)C(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br | InChI=1S/C15H17BrN4O2.2ClH/c1-9(2)20(17)15(21)12-8-19-5-6-22-13-7-10(16)3-4-11(13)14(19)18-12;;/h3-4,7-9H,5-6,17H2,1-2H3;2*1H
